US06498154B1
To a solution of (2-amino-5-bromophenyl)(phenyl)methanone (1 g, 3.6 mmol) in anhydrous THF (15 mL) was added at room temperature under nitrogen methylmagnesium bromide (3M in ether, 3 mL, 9 mmol). After 3 hours, the mixture was treated with a saturated aqueous ammonium sulfate solution (30 mL) and ethyl acetate (50 mL). The organic layer was separated, dried (MgSO4), and evaporated. The residue was then dissolved in anhydrous toluene and treated at ambient temperature under nitrogen with acetylaldehyde (2 mL). After 2 minutes, the solvent was removed and residue was purified by a column chromatography(silica gel, hexane:ethyl acetate/4:1) to afford 6-bromo-2,4-dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazine as a yellowish solid (0.8 g, 70%): MS (ESI) m/z 318/320 [M+H]+.

reactant | (2-amino-5-bromophenyl)(phenyl)methanone | 3.6 mmol, 1 g | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | ammonium sulfate | 30 mL | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 6-bromo-2,4-dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazine | 0.8 g, 70% | BrC=1C=CC2=C(C(OC(N2)C)(C2=CC=CC=C2)C)C1 | C16H16BrNO
